US07687515B2
A stirred suspension of 4-bromo-3-trifluoromethyl-phenol (117.6 g, 0.49 mol) iodoethane (77.6 g, 0.49 mol) and potassium carbonate (101.2 g, 0.73 mol) in acetonitrile (600 ml) was heated to reflux for 2.5 hours. The mixture was concentrated under reduced pressure before partitioning between dichloromethane (1 litre) and water (1 litre). The organic phase was collected and dried over magnesium sulfate before concentration under reduced pressure to afford 4-bromo-1-ethoxy-3-trifluoromethyl-benzene (126.97 g). 1H NMR (CDCl3): δ 7.66 (s, 1H) 7.56 (d, 1H) 6.86 (s, 1H) 4.09 (q, 2H) 1.44 (t, 3H).

reactant | 4-bromo-3-trifluoromethyl-phenol | 0.49 mol, 117.6 g | BrC1=C(C=C(C=C1)O)C(F)(F)F | C7H4BrF3O
reactant | potassium carbonate | 0.73 mol, 101.2 g | C([O-])([O-])=O.[K+].[K+]
reactant | acetonitrile | 600 ml | C(C)#N | C2H3N
product | 4-bromo-1-ethoxy-3-trifluoromethyl-benzene | 126.97 g | BrC1=C(C=C(C=C1)OCC)C(F)(F)F | C9H8BrF3O
